US03931155
Magnesium methyl carbonate (1.2 moles, 2 N in dimethylformamide) is heated to 120°C. under an atmosphere of carbon dioxide. The compound 1,1-diphenylacetone, 63.0 g (0.3 moles), is added and the mixture is stirred at 120°C. for a period of 4 hours under a stream of nitrogen to form the chelate, allowing the methyl alcohol that forms to escape. The mixture is cooled to room temperature under an atmosphere of carbon dioxide and 30.0 g (0.36 moles) of 2,3,4,5-tetrahydropyridine (as α-tripiperidein) is added and stirring continued at room temperature for a period of 6 days under an atmosphere of carbon dioxide. The reaction mixture is poured into 375 ml of concentrated HCl on 400 g of ice and the resulting mixture is extracted with methylene dichloride. The extracts are combined, dried over anhydrous sodium sulfate and the solvent is removed. The crude oil is recrystallized twice from an aqueous isopropyl alcohol solution to yield 37.9 g (37% yield) of 1,1-diphenyl-3-(2-piperidyl)propan- 2-one as the hydrochloride salt having a M.P. of 197-9°C. (dec.)

reactant | Magnesium methyl carbonate | 1.2 moles, 2 N | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 1,1-diphenylacetone | C1(=CC=CC=C1)C(C(=O)C)C1=CC=CC=C1 | C15H14O
reactant | 2,3,4,5-tetrahydropyridine | 0.36 moles, 30.0 g | N=1CCCCC1 | C5H9N
reactant | HCl | 375 ml | Cl | ClH
solvent | methyl alcohol | CO | CH4O
product | 1,1-diphenyl-3-(2-piperidyl)propan- 2-one | 37.9 g, 37% yield | C1(=CC=CC=C1)C(C(CC1NCCCC1)=O)C1=CC=CC=C1 | C20H23NO
